US07745438B2
[(S)-2-benzyloxy-1-(2-iodo-1,1-diphenylethoxymethyl)-ethyl]-carbamic acid tert-butyl ester
Dissolve ((R)-2-benzyloxy-1-hydroxymethylethyl)-carbamic acid tert-butyl ester (1.0 g, 3.55 mmol) and 1,1-diphenylethylene (0.534 g, 2.96 mmol) in acetonitrile (20 mL). Add N-iodosuccinimide (0.800 g, 3.55 mmol) and stir at room temperature 72 hours. Pour into ethyl acetate and wash with saturated aqueous sodium chloride. Dry (magnesium sulfate), filter and concentrate. Purify on silica gel, eluting with 0:100 to 30:70 ethyl acetate:hexanes to give the desired compound.

reactant | ((R)-2-benzyloxy-1-hydroxymethylethyl)-carbamic acid tert-butyl ester | 3.55 mmol, 1.0 g | C(C)(C)(C)OC(N[C@@H](COCC1=CC=CC=C1)CO)=O | C15H23NO4
reactant | 1,1-diphenylethylene | 2.96 mmol, 0.534 g | C1(=CC=CC=C1)C(=C)C1=CC=CC=C1 | C14H12
reactant | N-iodosuccinimide | 3.55 mmol, 0.800 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | [(S)-2-benzyloxy-1-(2-iodo-1,1-diphenylethoxymethyl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](COCC1=CC=CC=C1)COC(CI)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C29H34INO4
